US08420631B2
3-[(2,2,2-Trifluoroethyl-amino)-methyl]-phenyl-boronic acid
Dissolve 3-formylphenyl boronic acid hydrochloride (2.5 g, 16.67 mmol) and 2,2,2,-trifluoroethylamine (2.97 g, 30.01 mmol) in DCM (100 mL). Add sodium triacetoxyborohydride (10.6 g, 50.02 mmol) portionwise over 10 min and stir the resulting solution for 72 h. Then quench with water (50 mw). Dry the organic fraction over MgSO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with dichloromethane:methanol (1:0 to 19:1) to give the title compound as a colourless oil (1.41 g, 36%).

reactant | 3-formylphenyl boronic acid hydrochloride | 16.67 mmol, 2.5 g | Cl.C(=O)C=1C=C(C=CC1)B(O)O
reactant | 2,2,2,-trifluoroethylamine | 30.01 mmol, 2.97 g | FC(CN)(F)F | C2H4F3N
reactant | sodium triacetoxyborohydride | 50.02 mmol, 10.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2,2,2-Trifluoroethyl-amino)-methyl]-phenyl-boronic acid | 1.41 g, 36% | FC(CNCC=1C=C(C=CC1)B(O)O)(F)F | C9H11BF3NO2
